US05134147
2-Benzocyclobuten-1-ylethanol
A three-necked flask is charged under a stream of nitrogen with 7.4 g of lithium aluminium hydride, and 70 ml of anhydrous tetrahydrofuran are then added. A solution of 2-benzocyclobuten-1-ylacetic acid (prepared according to the process described in J. Org. Chem., (1979), 44, p. 1036) in 120 ml of tetrahydrofuran is then introduced dropwise. The reaction solution is left stirring overnight. The flask is then cooled with an ice bath and the mixture is hydrolyzed by adding 6.6 ml of water, 6.6 ml of 4N sodium hydroxide and then 19.8 ml of water very gently. The complex is drained and washed with ethyl ether and the organic phase is dried over magnesium sulfate. After filtration, the filtrate is evaporated to dryness to obtain the expected compound.

reactant | lithium aluminium hydride | 7.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-benzocyclobuten-1-ylacetic acid | C1(=CC2=C1C=CC=C2)CC(=O)O | C10H8O2
reactant | water | 6.6 ml | O | H2O
reactant | sodium hydroxide | 4N, 6.6 ml | [OH-].[Na+]
reactant | water | 19.8 ml | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-Benzocyclobuten-1-ylethanol | Yield: 85% | C1(=CC2=C1C=CC=C2)CCO | C10H10O
